US06642227B2
5-[2-(3-Nitrophenylamino)-5-methyl-pyrimidin-4-yl]-4-cyclohexyl-2-methylsulfanyl-thiophene-3-carbonitrile (V-7)
To a solution of 4-cyclohexyl-5-(3-dimethylamino-2-methyl-acryloyl)-2-methylsulfanyl-thiophene-3-carbonitrile (0.5 g, 1.7 mmol) in toluene (3 ml) was added DMF-DMA and the reaction was heated at 90° C. overnight resulting in conversion to product as determined by TLC (40% EtOAc:hexanes). The crude product was combined with DMF (10 ml) and 3-Nitrophenylguanidine (0.5 g, 2.78 mmol) in a sealed tube and heated at 120° C. overnight resulting in conversion to product as determined by TLC (40% EtOAc:hexanes). The reaction was partitioned between EtOAc and water, the organics were dried over sodium sulfate then concentrated in vacuo. The crude product was purified by chromatography (silica gel, 10% EtOAC:hexanes) to afford 0.334 g (3.05 umol) of V-7 in 42% yield for 2 steps. 1H NMR (CDCl3) δ1.0-2.0 (m, 10H), 2.1 (s, 3H), 2.6(s, 3H), 7.4(m, 1H), 7.7 (d, 1H), 7.8 (d, 1H), 8.3 (s, 1H), 8.7 (s, 1H).

reactant | 4-cyclohexyl-5-(3-dimethylamino-2-methyl-acryloyl)-2-methylsulfanyl-thiophene-3-carbonitrile | 1.7 mmol, 0.5 g | C1(CCCCC1)C=1C(=C(SC1C(C(=CN(C)C)C)=O)SC)C#N | C18H24N2OS2
reactant | DMF-DMA | CN(C)C(OC)OC | C5H13NO2
reactant | 3-Nitrophenylguanidine | 2.78 mmol, 0.5 g | [N+](=O)([O-])C=1C=C(C=CC1)NC(=N)N | C7H8N4O2
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 5-[2-(3-Nitrophenylamino)-5-methyl-pyrimidin-4-yl]-4-cyclohexyl-2-methylsulfanyl-thiophene-3-carbonitrile | 42% yield | [N+](=O)([O-])C=1C=C(C=CC1)NC1=NC=C(C(=N1)C1=C(C(=C(S1)SC)C#N)C1CCCCC1)C | C23H23N5O2S2
